* Integrated test: PTAT bias + fully-biased cell across temperature.
* Claim under test: value/iu(T) is temperature-invariant (ratiometric).
* Points: (u=0,veff=3)->1.0, (u=2,veff=3)->7.389, (u=0,veff=6)->0.307.
* Test inputs are themselves bias-referenced legs (as in the fabric):
*   u=2: W8 leg (2u=4units?) no -- u=2 needs 2 units = 1 uA SUNK from nu
*        -> W4 PMOS leg into NMOS mirror sinking from nu, switched.
*   veff=6: +3 units into nv on top of pedestal2+1: W6 leg, switched.
* Monitor: W2 leg (1 unit) into 0V source = iu(T) reference.
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt

VDD vdd 0 3.3
XBIAS vdd pbias nd12 nd055 ptatbias
XDRV ve nd055 vdd pbias raildrv
* vrefb is no longer buffered (one-buffer raildrv, 2026-07-29):
* it IS the divider tap.
RVRB nd12 vrefb 0.001

* unit monitor
XLMON nmon pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
VMON nmon 0 1.0

* cell
XCELL nu nv out vdd vrefb ve pbias emlcell_b
VOUT out 0 0.9

* test input legs (switched by behavioral testbench switches)
* u = +2: sink 1 uA from nu via NMOS mirror fed by W4 leg
XLU pbias_u pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=8
XMNU1 pbias_u pbias_u 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=32 L=2
XMNU2 nusw pbias_u 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=32 L=2
SU nu nusw ctlu 0 tbsw
VCTLU ctlu 0 0
* veff = 6: +3 units (1.5 uA) into nv: W6 leg
XLV nvsw pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=12 L=8
SV nv nvsw ctlv 0 tbsw
VCTLV ctlv 0 0
* v-input default: veff = 3 needs +1 unit beyond pedestal: W2 leg
XLV1 nv pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8

.model tbsw SW(Ron=100 Roff=1G Vt=1.65)
.include /Users/cteusche/data/projects/eml/code/silicon/cell/v3/eml_cell_v3.inc
.include /Users/cteusche/data/projects/eml/code/silicon/cell/v3/eml_cell_v3b.inc
.include /Users/cteusche/data/projects/eml/code/silicon/bias/ptat_bias.inc

.control
set filetype=ascii
echo > v3b_temp.txt
foreach t -20 0 27 55 85
  option temp = $t
  alter VCTLU = 0
  alter VCTLV = 0
  op
  let p1 = i(vout)
  let m1 = i(vmon)
  set pp1 = $&p1
  set mm1 = $&m1
  alter VCTLU = 3.3
  op
  let p2 = i(vout)
  set pp2 = $&p2
  alter VCTLU = 0
  alter VCTLV = 3.3
  op
  let p3 = i(vout)
  set pp3 = $&p3
  echo $t $mm1 $pp1 $pp2 $pp3 >> v3b_temp.txt
end
echo PT_DONE
.endc
.end
